US07371503B2
100 ml of dichloromethane and 28.61 g of sodium 2-(bicyclo[2.2.1]heptan-2-yl)tetrafluoroethane sulfonate were added to the aqueous solution of 1-(6-n-butoxynaphthalen-2-yl)tetrahydrothiophenium methane sulfonate and the mixture was stirred for 12 hours. After removing the water layer using a separating funnel, the organic layer was washed five times with 40 ml of purified water. The solvent was evaporated using a rotary evaporator under reduced pressure by a stream aspirator at room temperature and the residue was dried at 50° C. under reduced pressure to obtain 24.2 g of 1-(6-n-butoxynaphthalen-2-yl)tetrahydrothiophenium 2-(bicyclo[2.2.1]heptan-2-yl)tetrafluoroethane sulfonate as a white solid.

reactant | sodium 2-(bicyclo[2.2.1]heptan-2-yl)tetrafluoroethane sulfonate | 28.61 g | C12C(CC(CC1)C2)C(C(S(=O)(=O)[O-])(F)F)(F)F.[Na+]
reactant | 1-(6-n-butoxynaphthalen-2-yl)tetrahydrothiophenium methane sulfonate | CS(=O)(=O)[O-].C(CCC)OC=1C=C2C=CC(=CC2=CC1)[S+]1CCCC1
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(6-n-butoxynaphthalen-2-yl)tetrahydrothiophenium 2-(bicyclo[2.2.1]heptan-2-yl)tetrafluoroethane sulfonate | 24.2 g | C12C(CC(CC1)C2)C(C(S(=O)(=O)[O-])(F)F)(F)F.C(CCC)OC=2C=C1C=CC(=CC1=CC2)[S+]2CCCC2 | InChI=1S/C18H23OS.C9H12F4O3S/c1-2-3-10-19-17-8-6-16-14-18(9-7-15(16)13-17)20-11-4-5-12-20;10-8(11,9(12,13)17(14,15)16)7-4-5-1-2-6(7)3-5/h6-9,13-14H,2-5,10-12H2,1H3;5-7H,1-4H2,(H,14,15,16)/q+1;/p-1
